US06177459B1
10 g (0.036 mol) of 2-[(2-methylphenoxy)-methyl]-1-bromo-benzene (EP-A 525 516, page 113) are dissolved in 40 ml of tetrahydrofuran. 3 g of this solution are added to 0.88 g (0.036 mol) of magnesium turnings. After the addition of a drop of bromine, the mixture is heated. Once the reaction has set in, the remainder of the bromine compound dissolved in tetrahydrofuran is added and the mixture is heated under reflux for one hour. At −20° C., 3.76 g (0.036 mol) of 2-cyanopyridine dissolved in 10 ml of tetrahydrofuran are then added to the reaction mixture, and the mixture is stirred at −20° C. for 1 hour. A solution of 10 g of ammonium chloride in 100 ml of water is added and the crude intermediate (the ketimine of the end product) is extracted with diethyl ether. The solution is concentrated and the residue is admixed with a mixture of 15 ml of 36% strength aqueous hydrochloric acid, 50 ml of water and 100 ml of dimethylformamide. The mixture is stirred at 25° C. for one hour and ice is then added to the mixture which is made alkaline with 50% strength aqueous sodium hydroxide solution and extracted with diethyl ether. The organic phase is dried over sodium sulphate and concentrated under reduced pressure. The residue is chromatographed over silica gel using diethyl ether/petroleum ether (1:1). 3.94 g (36% of theory) of 2-[2-(2-methylphenoxymethyl)-benzoyl]-pyridine are obtained.

reactant | 2-[(2-methylphenoxy)-methyl]-1-bromo-benzene | 0.036 mol, 10 g | CC1=C(OCC2=C(C=CC=C2)Br)C=CC=C1 | C14H13BrO
reactant | magnesium | 0.036 mol, 0.88 g | [Mg] | Mg
reactant | bromine | BrBr | Br2
reactant | 2-cyanopyridine | 0.036 mol, 3.76 g | C(#N)C1=NC=CC=C1 | C6H4N2
reactant | ammonium chloride | 10 g | [Cl-].[NH4+]
reactant | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | 100 ml | O | H2O
product | 2-[2-(2-methylphenoxymethyl)-benzoyl]-pyridine | 3.94 g, 36% | CC1=C(OCC2=C(C(=O)C3=NC=CC=C3)C=CC=C2)C=CC=C1 | C20H17NO2
